US04761415
A solution of 2-(4-methyl-1-piperazinyl)acetic acid, methyl ester (16.3 g., 0.0946 mole) and hydrazine monohydrate (7.0 ml., 0.142 mole) in ethanol (100 ml.) was refluxed for 17 hours and the solvent was removed under vacuum. The residue was triturated with ether with cooling at -78° and the resulting solid was filtered. The product was triturated again with ether-ethyl acetate to give 2-(4-methyl-1-piperazinyl)acetic acid, hydrazide as a solid melting at 87°-89° C. (8.94 g., 55%).

reactant | 2-(4-methyl-1-piperazinyl)acetic acid, methyl ester | 0.0946 mole, 16.3 g | CN1CCN(CC1)CC(=O)OC | C8H16N2O2
reactant | hydrazine monohydrate | 0.142 mole, 7.0 ml | O.NN
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-(4-methyl-1-piperazinyl)acetic acid, hydrazide | CN1CCN(CC1)CC(=O)NN | C7H16N4O
